US06306891B1
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added 1-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]ethanone AV-8-1 (0.628 g, 2.14 mmol), dry THF (10 mL), diethyl oxalate (0.41 mL, 3.00 mmol) and NaOEt (0.204 g, 3.00 mmol). The resulting mixture was stirred 1 h at ambient temperature. The mixture was diluted with EtOAc and washed with 1N HCl, H2O (2×) and brine. Drying (MgSO4) filtration and removal of the solvent in vacuo gave 4-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]-2,4-dioxobutyric acid ethyl ester AV-9-1 as an oil. This material was used without further purification. 1H NMR (CDCl3) δ 1.38 (3H, t, j=7.1 Hz), 4.38 (2H, q, j=7.1 Hz), 5.65 (2H, s), 6.38 (1H, d, j=4.1 Hz), 6.79 to 6.94 (4H, m), 7.29 (2H, m), 7.39 (3H, m).

reactant | 1-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]ethanone | 2.14 mmol, 0.628 g | FC1=CC=C(CN2C(=CC=C2C2=CC=CC=C2)C(C)=O)C=C1 | C19H16FNO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 3.00 mmol, 0.41 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | NaOEt | 3.00 mmol, 0.204 g | CC[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-(4-fluorobenzyl)-5-phenyl-1H-pyrrol-2-yl]-2,4-dioxobutyric acid ethyl ester | C(C)OC(C(CC(=O)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=C(C=C1)F)=O)=O | C23H20FNO4
